US06156907
3-(4-Cyano-1H-1,2,3-triazol-1-yl)-2,3,4,5-tetrahydro-2-oxo-1H-1-benzazepine
A mixture of 3-azido-2,3,4,5-tetrahydro-2-oxo-1 H-1-benzazepine (1.01 g) and 2-chloro-acrylonitrile (0.95 g) in water (5 ml) is stirred at about 80° C. for 18 hours. Excess 2-chloro-acrylonitrile is distilled off in vacuo, and the precipitated product is filtered off, washed with water and dried (yield 1.1 g; 87% of theory), m.p. 214-216° C. (recrystallization from ethyl acetate/toluene).

reactant | 3-azido-2,3,4,5-tetrahydro-2-oxo-1 H-1-benzazepine | 1.01 g | N(=[N+]=[N-])C1C(NC2=C(CC1)C=CC=C2)=O | C10H10N4O
reactant | 2-chloro-acrylonitrile | 0.95 g | ClC(C#N)=C | C3H2ClN
solvent | water | 5 ml | O | H2O
product | 3-(4-Cyano-1H-1,2,3-triazol-1-yl)-2,3,4,5-tetrahydro-2-oxo-1H-1-benzazepine | C(#N)C=1N=NN(C1)C1C(NC2=C(CC1)C=CC=C2)=O | C13H11N5O
